US08119633B2
Methyl 2-(1-(3,4-dichlorophenylsulfonyl)piperidin-2-yl)acetate
A solution of 3,4-dichlorobenzenesulfonyl chloride (1.88 g, 7.65 mmol) in DCM (15 ml) was added at 0° C. to a solution, cooled to 0° C., of piperidin-2-ylacetic acid methyl ester hydrochloride (1.3 g, 8.4 mmol) in DCM (33 ml) and triethylamine (2.66 ml, 21 mmol), and stirring was then carried out for 90 minutes at room temperature. 0.5 M HCl (20 ml) was then added, and stirring was carried out for a further 15 minutes. The organic phase was separated off, washed with water and dried over sodium sulfate. The solvent was removed using a rotary evaporator and the product was used in the next stage without being purified further. Yield: 1.9 g (63%)

reactant | 3,4-dichlorobenzenesulfonyl chloride | 7.65 mmol, 1.88 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
reactant | piperidin-2-ylacetic acid methyl ester hydrochloride | 8.4 mmol, 1.3 g | Cl.COC(CC1NCCCC1)=O
reactant | triethylamine | 21 mmol, 2.66 ml | C(C)N(CC)CC | C6H15N
reactant | HCl | 0.5 M, 20 ml | Cl | ClH
solvent | DCM | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 33 ml | C(Cl)Cl | CH2Cl2
product | Methyl 2-(1-(3,4-dichlorophenylsulfonyl)piperidin-2-yl)acetate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(CCCC1)CC(=O)OC | C14H17Cl2NO4S
